Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / lisinopril
 
Attending: ___.
 
Chief Complaint:
Right medial thigh pain and drainage
 
Major Surgical or Invasive Procedure:
debridement of abscess x 3
 
History of Present Illness:
Ms. ___ is a ___ PMH poorly controlled DMII. She
has had 2 weeks of right medial thigh cellulitis, and has been
treated with Bactrim and then Bactrim with Keflex by her close
friend, who she designates as her PCP. When the cellulitis
worsened, she encouraged the patient to seek emergent care. 

Upon initial assessment by ACS, Ms. ___ denies
fever, chills, abdominal pain, shortness of breath, or dysuria. 
 
Past Medical History:
Past Medical History:
-DMII
-HLD
-HTN

Past Surgical History:
-Inguinal hernia
-Tonsillectomy & adenoidectomy
 
Social History:
___
Family History:
NC
 
Physical Exam:
VS: AVSS
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR 
PULM: No respiratory distress
ABD: S/NT/ND
Ext: No ___ edema, ___ warm and well perfused, right medial thigh 
dressing clean and dry, wound under dressing clean, no purulent 
or sanguineous drainage, less TTP than prior exams
 
Pertinent Results:
___ 07:45AM BLOOD WBC-6.1 RBC-2.87* Hgb-7.1* Hct-23.2* 
MCV-81* MCH-24.7* MCHC-30.6* RDW-16.6* RDWSD-47.2* Plt ___
___ 07:45AM BLOOD Glucose-205* UreaN-9 Creat-0.4 Na-137 
K-3.8 Cl-103 HCO___ AnGap-15
___ 07:45AM BLOOD Calcium-8.3* Phos-3.3 Mg-1.6

CT pelvis with contrast ___

IMPRESSION: 
  
  
1. 4.6 x 2.9 cm rim enhancing hypodense fluid collection in the 
left perineum 
and possibly adjacent to the vagina  with a smaller rim 
enhancing fluid 
collection immediately to the right.  This could represent a 
bartholin's cysts 
or superinfected bartholin's cysts. 
2. Few foci of gas in the right perineum and asymmetric soft 
tissue thickening 
surrounding the right upper thigh.  The inferior extent of the 
fat stranding 
is not imaged.  Findings are worrisome for necrotizing 
fasciitis, particularly 
if no recent prior procedure at this site. 

 
Brief Hospital Course:
The patient was admitted to the acute care surgery service 
___.  Given findings, the patient was taken to the operating 
room for debridement of abscess on ___, and 
___. There were never any adverse events in the operating 
room; please see the operative notes for details.  Pt was 
extubated, taken to the PACU until stable, then transferred to 
the ward for observation. 
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a PCA and then 
transitioned to oral oxycodone once tolerating a diet. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: When the patient was not kept NPO for procedures, she 
tolerated a regular diet.  She was given a stool softener in 
order to avoid straining during bowel movements. 
ID: The patient had cultures from the wound sent multiple times, 
and antibiotics and antifungal medications were narrowed based 
on sensitivities and speciation.  She tolerated oral augmentin 
well before being discharged with a prescription for 7 more days 
Augmentin.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

**She will be discharged with ___ and a prescription for 7 more 
days Augmentin, and a follow up appointment ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cephalexin 500 mg PO Q8H x7 days 
2. clindamycin phosphate 1 % topical DAILY:PRN for face  
3. clotrimazole-betamethasone ___ % topical BID:PRN 
4. Fluconazole 150 mg PO DAILY:PRN yeast infection  
5. glimepiride 4 mg oral BID 
6. lidocaine-prilocaine 2.5-2.5 % topical apply to affected area 
___ hour prior to blood draws as needed 
7. LORazepam 0.5 mg PO ___ HOUR PRIOR TO PROCEDURE:PRN anxiety 
8. Losartan Potassium 100 mg PO DAILY 
9. MetFORMIN (Glucophage) 1000 mg PO BID 
10. Metoprolol Succinate XL 100 mg PO DAILY 
11. Pravastatin 20 mg PO QPM 
12. Ferrous Sulfate 325 mg PO DAILY 
13. Cinnamon (cinnamon bark) unknown strength  oral "from time 
to time" 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
Do not take this medication if you do not need it  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 14 
Doses 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*14 Tablet Refills:*0 
3.  Invokana (canagliflozin) 100 mg oral DAILY 
RX *canagliflozin [Invokana] 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
4.  MetFORMIN XR (Glucophage XR) 1000 mg PO BID 
RX *metformin 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*36 Tablet Refills:*0 
6.  glimepiride 4 mg oral with breakfast and dinner 
RX *glimepiride 4 mg 1 tablet(s) by mouth twice a day Disp #*30 
Tablet Refills:*2 
7.  clindamycin phosphate 1 % topical DAILY:PRN for face   
8.  clotrimazole-betamethasone ___ % topical BID:PRN  
9.  Ferrous Sulfate 325 mg PO DAILY  
10.  Fluconazole 150 mg PO DAILY:PRN yeast infection   
11.  lidocaine-prilocaine 2.5-2.5 % topical apply to affected 
area ___ hour prior to blood draws as needed  
12.  LORazepam 0.5 mg PO ___ HOUR PRIOR TO PROCEDURE:PRN anxiety 
 
13.  Losartan Potassium 100 mg PO DAILY  
14.  Metoprolol Succinate XL 100 mg PO DAILY  
15.  Pravastatin 20 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
___, perineal, thigh/buttock abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ and 
underwent debridement of abscesses three times. You are 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery:

**Please finish the entire course of antibiotics as prescribed

**You will have a visiting nurse who changes your dressing daily 
(Wet to dry dressings with an ABD over the area) and your nurse 
___ receive an instruction form

**You have a follow up appointment ___ ___ 
below) for wound eval.

Regular diet

Please keep the area as clean as possible. Activity as tolerated
 
Followup Instructions:
___